US08877961B2
(3-Hydroxy-propylamino)-acetic acid ethyl ester
3-Aminopropan-1-ol (154 g; 2.05 mol) is cooled to −5° C. Ethyl bromoacetate (143.6 g: 817 mmol) is added dropwise over a period of 1.5 hours maintaining the temperature around 5-10° C. The stirring is continued for 10 minutes. LC-MS showed that all ethyl bromoactetate has reacted. Then water (570 ml) is added to the reaction mixture. The aqueous mixture is washed three times with ethylacetate (3 times 140 ml). The combined organic phases are back extracted with water (2 times 140 ml). The aqueous phases are combined and saturated with sodium chloride (255 g). The aqueous solution is extracted with methylene chloride (6 times 750 ml). The combined organic phases are dried over sodium sulfate and the solvent is removed under reduced pressure. A yellow oil is obtained (83 g; yield 63%)

reactant | 3-Aminopropan-1-ol | 2.05 mol, 154 g | NCCCO | C3H9NO
reactant | Ethyl bromoacetate | 817 mmol, 143.6 g | BrCC(=O)OCC | C4H7BrO2
solvent | water | 570 ml | O | H2O
product | (3-Hydroxy-propylamino)-acetic acid ethyl ester | yield 63% | C(C)OC(CNCCCO)=O | C7H15NO3
